US06133273
1-Butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione
To 2.3 g (12.62 mmol) of 1-butyl-6-methyl-1H-pyrimidine-2,4-dione in 100 mL DMF was added 3.49 (25.2 mmol) of K2CO3, 0.98 mL (2.24 g, 15.76 mmol) of MeI and the reaction mixture was heated to 65° C. After 16.5 h, TLC (8/1 CH2Cl2 /EtOAc) indicated the consumption of starting material (Rf =0.15). After cooling to 23° C., the resulting slurry was filtered through Celite, and evaporated to a yellow. This oil was dissolved in 100 mL EtOAc, extracted with 100 mL brine, 3×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered and evaporated to a yellow oil. Flash chromatography on silica gel, eluting with CH2Cl2 /EtOAc (20/1 to 4/1), gave 2.03 g (10.34 mmol, an 82% yield) of the title compound as a white crystalline solid. mp: 181-182° C.; 1H NMR (300 MHz, CDCl3): δ 0.95 (t, J=7.3 Hz, 3H), 1.38 (hex, J=7.3 Hz, 2H), 1.57-1.67 (m, 2H), 2.25 (s, 3H), 3.32 (s, 3H), 3.81 (t, J=7.4 Hz, 2H), 5.59 (s, 1H); IR (KBr, cm-1): 3083w, 2955w, 2876w, 1702s, 1665s, 1614s, 1446s, 1435s, 1368w, 1043w; MS (ES) m/z (relative intensity): 197 (M+ +H, 100). Anal. Calcd. for C10H16N2O2 : C, 61.20; H, 8.22; N, 14.27. Found: C, 60.95; H, 8.19; N, 14.16.

reactant | 1-butyl-6-methyl-1H-pyrimidine-2,4-dione | 12.62 mmol, 2.3 g | C(CCC)N1C(NC(C=C1C)=O)=O | C9H14N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 15.76 mmol, 0.98 mL, 2.24 g | CI | CH3I
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-Butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione | 82% yield | C(CCC)N1C(N(C(C=C1C)=O)C)=O | C10H16N2O2
